US04092321
A solution of 5-(phenylsulfinyl)pyridine-2-thione (2.21 g., .01 moles) in 25 ml. of 2.5N sodium hydroxide is treated with 1.6 g. of dimethyl sulfate. After stirring at room temperature for 3 hours, the reaction mixture is extracted with methylene chloride. The extracts are washed with water, dried and evaporated in vacuo to yield 2-(methylthio)-5-(phenylsulfinyl)pyridine.

reactant | 5-(phenylsulfinyl)pyridine-2-thione | .01 moles, 2.21 g | C1(=CC=CC=C1)S(=O)C=1C=CC(NC1)=S | C11H9NOS2
reactant | sodium hydroxide | 2.5N | [OH-].[Na+]
reactant | dimethyl sulfate | S(=O)(=O)(OC)OC | C2H6O4S
product | 2-(methylthio)-5-(phenylsulfinyl)pyridine | CSC1=NC=C(C=C1)S(=O)C1=CC=CC=C1 | C12H11NOS2
